US04613676
Z-Phe-His-Leu-Val-Ile-His-Lys(BOC)-OMe
Z-Leu-Val-Ile-His-Lys(BOC)-OMe: 300 mg of Z-Leu-Val-OH, 454 mg of H-Ile-His-Lys(BOC)-OMe (manufactured as discribed in European Patent Applicaiton No. 111 266) and 136 mg of HOBt are dissolved in 5 ml of DMF, cooled to 0° and 198 mg of DCCI are added. After stirring briefly, the whole is left to stand overnight at 0° and for a further 24 hours at room temperature and then the DCH which has crystallised out is filtered off. The filtrate is concentrated in a high vacuum at 40° and the oily residue is dissolved in 12 ml of methanol/glacial acetic acid/H20 (94:3:3) and heated for 1 hour at 60°. The solution is again concentrated to dryness and the residue is purified by Craig distribution in the system methanol/acetate buffer/ethylene chloride/chloroform 10:3:8:4 (acetate buffer: 14.3 ml of glacial acetic acid and 9.6 g of ammonium acetate in 1000 ml of water) over 800 stages. The fractions pure according to thin layer chromatography (K=0.26) are combined, concentrated to dryness, pulverised and subsequently dried in a high vacuum at 40°. Rf (B17)=0.70, Rf (S4)=0.75.

reactant | Z-Leu-Val-Ile-His-Lys(BOC)-OMe | N([C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C43H68N8O10
reactant | Z-Leu-Val-OH | 300 mg | N([C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H28N2O5
reactant | H-Ile-His-Lys(BOC)-OMe | 454 mg | N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C24H42N6O6
reactant | HOBt | 136 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 198 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Z-Phe-His-Leu-Val-Ile-His-Lys(BOC)-OMe | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C58H84N12O12
